US07291635B2
A solution of the title B compound, 2-(4-methoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (1.02 g, 3.98 mmol), 3-iodo-benzyl alcohol (1.01 mL, 7.95 mmol) and triphenylphosphine (2.10 g, 8.0 mmol) in THF (50 mL) is cooled to 5° C. and treated with a solution of diethyl azodicarboxylate (1.26 mL, 8.0 mmol) in THF (10 mL). The reaction is allowed to warm to RT over 16 h. The reaction mixture is concentrated to yield a yellow oil. This is chromatographed on a 110 g silica gel RediSep column (Isco, Inc.) with a 30 mL/min gradient elution of 0:100 (EtOAc:CH2Cl2) to 5:95 over 25 min. Fractions containing product are combined and concentrated to yield an oil, which spontaneously crystalizes. Trituration with Et2O yields 5-(3-iodo-benzyl)-2-(4-methoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one as a white solid: mp=98-100° C.

reactant | 2-(4-methoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 3.98 mmol, 1.02 g | COC1=CC=C(CN2S(NCC2=O)(=O)=O)C=C1 | C10H12N2O4S
reactant | 3-iodo-benzyl alcohol | 7.95 mmol, 1.01 mL | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | triphenylphosphine | 8.0 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.0 mmol, 1.26 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(3-iodo-benzyl)-2-(4-methoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | IC=1C=C(CN2CC(N(S2(=O)=O)CC2=CC=C(C=C2)OC)=O)C=CC1 | C17H17IN2O4S
